US04294760
A suspension of 1.0 g of methyl 5-(cyanohydroxyphenylmethyl)-1-methylpyrrole-2-acetate in 20 ml of 5 percent sodium hydroxide solution was heated under reflux for 30 minutes. The solution was acidified with 3 N hydrochloric acid solution. The solid was collected and recrystallized from acetonitrile to give 0.61 g (77 percent yield) of white crystalline 5-benzoyl-1-methylpyrrole-2-acetic acid, mp 145°-6°, undepressed by admixture with authentic product.

reactant | methyl 5-(cyanohydroxyphenylmethyl)-1-methylpyrrole-2-acetate | 1.0 g | C(#N)C(C1=CC=C(N1C)CC(=O)OC)(C1=CC=CC=C1)O | C16H16N2O3
reactant | hydrochloric acid | 3 N | Cl | ClH
solvent | sodium hydroxide | 20 ml | [OH-].[Na+]
product | 5-benzoyl-1-methylpyrrole-2-acetic acid | 0.61 g, 77 percent yield | C(C1=CC=CC=C1)(=O)C1=CC=C(N1C)CC(=O)O | C14H13NO3
